US06448270B1
B) 1-Mesyl-4-phenylbut-3-yne
A mixture of 1-mesylbut-3-yne (758 mg, 5.10 mmol), iodobenzene (1.25 g, 6.00 mmol), copper(I) iodide (40 mg), PdCl2(PPh3)2 (70 mg) in 12 mL of Et3N is stirred under N2 for 20 hr. The mixture is filtered and washed with Et3N (3×15 mL). The filtrate is evaporated in vacuo and is purified by flash chromatography to give the product as a pale yellow oil (560 mg, 50%) 1H NMR (CDCl3) 2.91 (t, J=6.6 Hz, 2 H), 4.39 (t, J=6.6 Hz, 2 H), 7.30 (m, 3 H), 7.38 (m, 2 H).

reactant | 1-mesylbut-3-yne | 5.10 mmol, 758 mg | S(=O)(=O)(C)CCC#C | C5H8O2S
reactant | iodobenzene | 6.00 mmol, 1.25 g | IC1=CC=CC=C1 | C6H5I
solvent | Et3N | 12 mL | CCN(CC)CC | C6H15N
catalyst | copper(I) iodide | 40 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-Mesyl-4-phenylbut-3-yne | 560 mg, 50% | S(=O)(=O)(C)CCC#CC1=CC=CC=C1 | C11H12O2S
